US07018988B2
(2S,4EZ)-1-(4-cyanobenzoyl)-N-[2-(diethylamino)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 4-cyanobenzoyl chloride, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 58% purity by LC/MS. MS(ESI+): m/z=386.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-1-(4-cyanobenzoyl)-N-[2-(diethylamino)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | C(#N)C1=CC=C(C(=O)N2[C@@H](CC(C2)=NOC)C(=O)NCCN(CC)CC)C=C1 | C20H27N5O3
